US05608077
To a stirred solution of 5-amino-4-carboxy-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethylpyrazole (15.0 g; hereinbefore described in Reference Example 24) in dry tetrahydrofuran (50 ml) was added, under nitrogen, a solution of boranetetrahydrofuran complex (1 Molar, 27.5 g) during 10 minutes keeping at -20° C. The solution was allowed to reach room temperature and stirred overnight. A further addition of the borane was made (10 ml), and the solution heated under reflux overnight. After cooling, a further addition of the borane (20 ml) was made, and the solution again heated under reflux for 4 hours. After cooling, sodium hydroxide (6N) solution was added to pH 11, and the solution extracted with dichloromethane. The organic phase was washed with water, dried over anhydrous magnesium sulphate, and evaporated in vacuo to give a brown oil. Purification by chromatography on silica (Merck, 40-230 mesh, 0.7 kg cm-2) eluting with hexane-ethyl acetate (2:1) gave 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-methyl-3-trifluoromethylpyrazole (2.0 g) from toluene-hexane, m.p. 97°-100° C., in the form of white crystals.

reactant | 5-amino-4-carboxy-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethylpyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(F)(F)F)C(=O)O | C12H5Cl2F6N3O2
reactant | borane | B | BH3
reactant | borane | 20 ml | B | BH3
reactant | sodium hydroxide | 6N | [OH-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-methyl-3-trifluoromethylpyrazole | 2.0 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(F)(F)F)C | C12H7Cl2F6N3
